US08536179B2
To a stirred solution of 6-bromo-N-((6-(hydroxymethyl)-2-methoxy-4-methylpyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide (500 mg, 1.086 mmol) in tetrahydrofuran (5 mL) was added 6 N HCl (15 mL, 15.00 mmol). The reaction was stirred under N2 with heating at 80° C. for 18 hr. The reaction was cooled to RT and evaporated to dryness under vacuum. The remaining was purified by silica gel chromatography (Analogix, SF25-60 g, 4% MeOH in CH2Cl2). The pure fractions were combined and evaporated to dryness under vacuum. Triturated with a small volume of water, filtered, washed with water and dried under vacuum to give the product 6-bromo-N-((6-(hydroxymethyl)-4-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide (189 mg, 0.423 mmol, 39.0% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ=11.30 (s, 1H), 8.27 (t, J=4.9 Hz, 1H), 7.76 (d, J=1.8 Hz, 1H), 7.33 (s, 1H), 7.01 (d, J=1.8 Hz, 1H), 6.05 (s, 1H), 5.38 (t, J=5.9 Hz, 1H), 4.74 (dt, J=6.7, 13.2 Hz, 1H), 4.32 (d, J=5.1 Hz, 2H), 4.25 (d, J=5.8 Hz, 2H), 2.26 (s, 3H), 2.13 (s, 3H), 1.39 (d, J=6.6 Hz, 6H). MS (ES)+m/e 446.1 [M+H]+.

reactant | 6-bromo-N-((6-(hydroxymethyl)-2-methoxy-4-methylpyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide | 1.086 mmol, 500 mg | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)NCC=1C(=NC(=CC1C)CO)OC | C22H26BrN3O3
reactant | HCl | 15.00 mmol, 6 N, 15 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 6-bromo-N-((6-(hydroxymethyl)-4-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide | 0.423 mmol, 189 mg, 39.0% yield | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)NCC=1C(NC(=CC1C)CO)=O | C21H24BrN3O3
